US04009170
In a manner similar to that of Example 25, condensation of 1-hydrazino-6,7-dimethoxy-3,4-dihydroisoquinoline (7.0 g.) and acetone (100 ml.) and treatment of the reaction mixture with hydrochloric acid afforded 1-(2-isopropylidenehydrazino)-6,7-dimethoxy-3,4-dihydroisoquinoline (I: X = X' = CH3, Y = Y' = H, Z = Z' = CH3O) hydrochloride (7.55 g., m.p. 211.5°-213° C. with decomposition).

reactant | 1-hydrazino-6,7-dimethoxy-3,4-dihydroisoquinoline | 7.0 g | N(N)C1=NCCC2=CC(=C(C=C12)OC)OC | C11H15N3O2
reactant | hydrochloric acid | Cl | ClH
reactant | acetone | 100 ml | CC(=O)C | C3H6O
product | 1-(2-isopropylidenehydrazino)-6,7-dimethoxy-3,4-dihydroisoquinoline | C(C)(C)=NNC1=NCCC2=CC(=C(C=C12)OC)OC | C14H19N3O2
